US07964724B2
2-[1,4]Diazepan-1-yl-1-morpholin-4-yl-ethanone dihydrochloride:
prepared from [1,4]diazepane-1-carboxylic acid tert-butyl ester, chloroacetylchloride and morpholine in an analogous manner as described in example 15.

reactant | [1,4]diazepane-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCNCCC1 | C10H20N2O2
reactant | chloroacetylchloride | ClCC(=O)Cl | C2H2Cl2O
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 2-[1,4]Diazepan-1-yl-1-morpholin-4-yl-ethanone dihydrochloride | Cl.Cl.N1(CCNCCC1)CC(=O)N1CCOCC1 | InChI=1S/C11H21N3O2.2ClH/c15-11(14-6-8-16-9-7-14)10-13-4-1-2-12-3-5-13;;/h12H,1-10H2;2*1H
